US07662972B2
Step 2: Production of 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid
In a solution of 0.6 g of crude 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid ethyl ester in 7 ml of ethanol, a solution of 0.5 g of potassium hydroxide in 2.0 ml of water was added, and stirred at room temperature for 18 hours. After the completion of the reaction, 20 ml of ice water was added in the reaction mixture, adjusted to pH 2 to 3 with concentrated hydrochloric acid, and then extracted with ethyl acetate (20 ml×2). The organic phase was washed with water, dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 0.6 g of crude aimed product as yellow oily substance. The resulting product was used as such without purification for the next step.

reactant | 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid ethyl ester | 0.6 g | C(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)N)=O | C19H15Cl2F3N2O3
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 2.0 ml | O | H2O
product | 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid | 0.6 g | NC1=C(C(=O)O)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H11Cl2F3N2O3
